US03993683
Ethyl [2 -(2'-fluoro- 4-biphenylyl)-2-oxoethyl]-sulfide
[2-(2'-Fluoro-4-biphenylyl)-2-oxo-ethylthio]acetic acid methyl ester, m.p. 80°-82° C (from n-propanol).

reactant | [2-(2'-Fluoro-4-biphenylyl)-2-oxo-ethylthio]acetic acid methyl ester | COC(CSCC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O | C17H15FO3S
solvent | n-propanol | C(CC)O | C3H8O
product | Ethyl [2 -(2'-fluoro- 4-biphenylyl)-2-oxoethyl]-sulfide | C(C)SCC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C16H15FOS
